US04599357
The solutions of 4.0 g of 1-(3-acetylthiopropanoyl)-indoline-2-carboxylic acid methyl ester in 20 ml of methanol and 18.5 ml of 2.11N aqueous potassium hydroxide are each deoxygenated by bubbling nitrogen through them for 10 minutes. Then the latter solution is added to the former and the mixture stirred at room temperature under nitrogen. After 2 hours it is quenched with 50 ml of 1N hydrochloric acid and extracted twice with 100 ml of diethyl ether. The combined extracts are dried and evaporated, to give the 1-(3-mercaptopropanoyl)-indoline-2-carboxylic acid melting at 140°-142°.

reactant | 1-(3-acetylthiopropanoyl)-indoline-2-carboxylic acid methyl ester | 4.0 g | COC(=O)C1N(C2=CC=CC=C2C1)C(CCSC(C)=O)=O | C15H17NO4S
solvent | methanol | 20 ml | CO | CH4O
solvent | potassium hydroxide | 2.11N, 18.5 ml | [OH-].[K+]
product | 1-(3-mercaptopropanoyl)-indoline-2-carboxylic acid | SCCC(=O)N1C(CC2=CC=CC=C12)C(=O)O | C12H13NO3S
